US06921763B2
B. tert-butyl 4-[4-amino-3-(4-amino-3-methoxyphenyl)-1H-pyrazolo[3,4-d]pyrmidin-1-yl]-1-piperidinecarboxylate
A mixture of tert-butyl 4-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-1-piperidinecarboxylate (0.50 g, 11.26 mmol), 2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (3.10 g, 12.39 mmol), sodium carbonate (2.90 g, 27.0 mmol) and tetrakis(triphenylphosphine)palladium (0.78 g, 0.67 mmol) in ethylene glycol dimethyl ether (90 mL) and water (45 mL) was heated at 85° C. for 18 hours. The mixture was cooled and evaporated under reduced pressure then partitioned between water (50 mL) and dichloromethane (50 mL). The aqueous layer was extracted further with dichloromethane (2×50 mL) then the combined organic solutions were dried over magnesium sulfate and then filtered. The filtrate was concentrated and purified by flash chromatography on silica gel using dichloromethane/methanol (96:4) as an eluent to provide the title compound (4.51 g, 91%) as a tan solid: 1H NMR (DMSO-d6, 400 MHz) δ 8.20 (s, 1H), 7.04 (s, 1H), 6.98 (d, 1H), 6.76 (d, 1H), 5.06 (bs, 1H), 4.86 (m, 1H), 4.08 (m, 2H), 3.83 (s, 3H), 2.90 (m, 2H), 2.03 (m, 2H), 1.90 (m, 2H), 1.43 (s, 9H); RP-HPLC (Hypersil HS C18 Hypersil HS C18, 5 μm 100 A, 250×4.6 mm; 25%-100% acetonitrile-0.05 M ammonium acetate over 10 min, 1 mL/min) tr 9.70 min.

reactant | tert-butyl 4-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-1-piperidinecarboxylate | 11.26 mmol, 0.50 g | NC1=C2C(=NC=N1)N(N=C2I)C2CCN(CC2)C(=O)OC(C)(C)C | C15H21IN6O2
reactant | 2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 12.39 mmol, 3.10 g | COC1=C(N)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C13H20BNO3
reactant | sodium carbonate | 27.0 mmol, 2.90 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 90 mL | COCCOC | C4H10O2
solvent | water | 45 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.67 mmol, 0.78 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 4-[4-amino-3-(4-amino-3-methoxyphenyl)-1H-pyrazolo[3,4-d]pyrmidin-1-yl]-1-piperidinecarboxylate | 4.51 g, 91% | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)N)OC)C2CCN(CC2)C(=O)OC(C)(C)C | C22H29N7O3
